Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-5.01184327835
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])=[C:8]=[C:9]([H:10])[H:11].[H:5][C:6]([H:7])[O:12][H:13],1.18274940718
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.67717926006
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-2.8260679577
[O:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1][O:2][C:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.11632286262
[H:1][C:2]([O:3][O:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]1[O:3][O:4]/[C:5]1=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],-0.3940003061909999
[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-3.98794351864
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]1=[C:11]([H:12])[H:13],-0.806236370359
[C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.96829401379
[C:7]#[C:8][O:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10],-6.34693561407
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.89224939841
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],5.01929638712
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.10420580957
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.0850160483700002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],4.63050984256
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.7265107647
[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.6269814282
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:6][H:7]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.9083512484300007
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:8][O:9][H:10].[H:7],2.68520214907
[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],0.3236170070099999
[C:5]([H:6])[H:7].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],-3.15752485034
[C:2]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:4]=[O:3]>>[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6]\[C:7]([H:8])([H:9])[H:10],3.2680847073500003
[C:1]#[C:2].[O:3]=[C:4]([O:5][H:6])[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-3.3870601018299995
[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[H:7].[O:1][C:2](=[O:3])[C:8]([H:9])([H:10])[H:11],-0.00996865651041
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.4413900148800005
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.30889171809
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1],8.05044399
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.33687751344
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.26018129185
